US07253286B2
N-(4-{2-[(Cyclopropylmethyl)aminocarbonyl]pyridin-4-yl}oxyphenyl)-N′-(4-fluorophenyl)urea
After adding 100 mg of 4-(4-Aminophenoxy)-2-[(cyclopropylmethyl)aminocarbonyl]pyridine to 5 ml of tetrahydrofuran, 0.075 ml of p-fluorophenyl isocyanate was added at room temperature and the mixture was stirred for 1 hour. NH type silica gel was added to the reaction solution, the solvent was distilled off under reduced pressure and the reaction product was adsorbed onto the silica gel. The silica gel was charged into a dry column packed with NH type silica gel, and column purification was performed (hexane:ethyl acetate=1:1, followed by ethyl acetate and ethyl acetate:methanol=10:1). The solvent was distilled off under reduced pressure, ethyl acetate and hexane were added to the residue, and the precipitated solid was filtered out to obtain 25 mg of the target substance as a light yellow powder.

reactant | 4-(4-Aminophenoxy)-2-[(cyclopropylmethyl)aminocarbonyl]pyridine | 100 mg | NC1=CC=C(OC2=CC(=NC=C2)C(=O)NCC2CC2)C=C1 | C16H17N3O2
reactant | p-fluorophenyl isocyanate | 0.075 ml | FC1=CC=C(C=C1)N=C=O | C7H4FNO
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N-(4-{2-[(Cyclopropylmethyl)aminocarbonyl]pyridin-4-yl}oxyphenyl)-N′-(4-fluorophenyl)urea | C1(CC1)CNC(=O)C1=NC=CC(=C1)OC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)F | C23H21FN4O3
